US06790860B2
A solution of 1.9 g (4.1 mmol) (2S,4R)-2-benzyloxy-methyl-4-tritylsulfanyl-pyrrolidine in 25 ml THF at 0° C. was treated with 0.57 ml (4.5 mmol) phenyl chloroformate and 0.41 ml (5.1 mmol) pyridine. After 2 h at room temperature the reaction was worked up with 1N HCl/EtOAc (3×), the organic phases were washed with H2O, aqueous saturated NaHCO3, dried and evaporated to give 2.6 g (quantitative) (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid phenyl ester, MS: 586 (MH+).

reactant | (2S,4R)-2-benzyloxy-methyl-4-tritylsulfanyl-pyrrolidine | 4.1 mmol, 1.9 g | C(C1=CC=CC=C1)O[C@@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C31H31NOS
reactant | phenyl chloroformate | 4.5 mmol, 0.57 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 5.1 mmol, 0.41 ml | N1=CC=CC=C1 | C5H5N
reactant | HCl EtOAc | 1N | Cl.CCOC(=O)C
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (2S,4R)-2-benzyloxymethyl-4-tritylsulfanyl-pyrrolidine-1-carboxylic acid phenyl ester | 2.6 g | C1(=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)COCC1=CC=CC=C1 | C38H35NO3S
